US08895733B2
Intermediate 92: 4-Amino-6-(cyclopropylmethyl-phenyl-amino)-[1,3,5]triazine-2-carbonitrile
To a solution of 4-amino-6-phenylamino-[1,3,5]triazine-2-carbonitrile (prepared in an analogous manner to Intermediate 5, 160 mg, 0.75 mmol) in DMF (6 mL) was added potassium carbonate (207 mg, 150 μmol) followed by bromomethyl-cyclopropane (111 mg, 830 μmol). The mixture was heated at 120 C for 3 h, allowed to cool to room temperature before extracting into ethyl acetate (10 mL) and washing with water (3×10 mL). The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to afford the title compound, which was used without further purification (300 mg, >100%). Method C HPLC-MS: MH+ requires m/z=267. Found: m/z=267, Rt=1.38 min (43%).

reactant | 4-amino-6-phenylamino-[1,3,5]triazine-2-carbonitrile | NC1=NC(=NC(=N1)NC1=CC=CC=C1)C#N | C10H8N6
reactant | potassium carbonate | 150 μmol, 207 mg | C([O-])([O-])=O.[K+].[K+]
reactant | bromomethyl-cyclopropane | 830 μmol, 111 mg | BrCC1CC1 | C4H7Br
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 4-Amino-6-(cyclopropylmethyl-phenyl-amino)-[1,3,5]triazine-2-carbonitrile | NC1=NC(=NC(=N1)N(C1=CC=CC=C1)CC1CC1)C#N | C14H14N6
